US04154834
An intimate mixture of 5-(4-pyridylmethyl)-2-methylthio-4-pyrimidone (1.55 g) and 2-(2-thiazolylmethylthio)ethylamine (1.16 g) was heated at 135°-140° with frequent stirring. After cooling, the reaction mixture was triturated under water to give 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(4-pyridylmethyl)-4-pyrimidone. This product was acidified with dilute ethanolic hydrogen chloride, evaporated to dryness and the residue recrystallised from methanol to give the title compound m.p. 190°-195°.

reactant | 5-(4-pyridylmethyl)-2-methylthio-4-pyrimidone | 1.55 g | N1=CC=C(C=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(2-thiazolylmethylthio)ethylamine | 1.16 g | S1C(=NC=C1)CSCCN | C6H10N2S2
product | 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(4-pyridylmethyl)-4-pyrimidone | S1C(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=NC=C1 | C16H17N5OS2
